US05288727
12.4 g (47 mmol) of 4-fluoro-4'-trifluoromethylstilbene was dissolved in 80 ml of chloroform. While irradiating the solution with a light of 160W mercury lamp, a solution of 2.4 ml (47 mmol) of bromine in 20 ml of chloroform was dropwise added at 40° C. Then, stirring was continued for 30 minutes. After completion of the reaction, the solvent was distilled off to obtain a yellow oily substance. Without purification, this oily substance was dissolved in 100 ml of ethanol. While refluxing the solution under heating, a solution of 12.3 g of potassium hydroxide in 45 ml of water was dropwise added. After completion of the dropwise addition, refluxing under heating was continued for 3 hours. After completion of the reaction, ethanol was distilled off, and water was added to the residue. The mixture was extracted with diethyl ether and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 12.2 g of 4-fluoro-4'-trifluoromethyltolane as a yellow solid. Without purification, this yellow solid was used for the subsequent reaction.

reactant | 4-fluoro-4'-trifluoromethylstilbene | 47 mmol, 12.4 g | FC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C(F)(F)F | C15H10F4
reactant | bromine | 47 mmol, 2.4 ml | BrBr | Br2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | mercury | [Hg] | Hg
product | 4-fluoro-4'-trifluoromethyltolane | 12.2 g | FC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(F)(F)F | C15H8F4
